US09340546B2
To a solution of tert-butyl N-[1-(3-nitro-4-pyridyl)-4-piperidyl]carbamate (2100 mg, 6.514 mmol) (prepared according to methods similar to the one depicted in Step 1 of Preparation N-1) and iodomethane (4.623 g, 2.028 mL, 32.57 mmol) in DMF at 0° C. was added portionwise sodium hydride (312.7 mg, 7.817 mmol). The reaction was stirred at 0° C. for 1 h, and at room temperature for 1 h. The reaction was quenched by pouring the reaction mixture onto a saturated aqueous solution of ammonium chloride, then extracted with ethyl acetate (2×50 mL). The combined organics was washed with brine (2×50 mL), dried and evaporated to leave an orange solid. To the crude solid dissolved in MeOH (50 mL) was added Pd/C (10%) (346 mg) and the mixture was stirred under a hydrogen atmosphere for 4 h. The reaction was filtered through celite and evaporated to leave tert-butyl (1-(3-aminopyridin-4-yl)piperidin-4-yl)(methyl)carbamate as a yellow oil. (600 mg, 20%) MS (ES+-tBu) 251.1.

reactant | tert-butyl N-[1-(3-nitro-4-pyridyl)-4-piperidyl]carbamate | 6.514 mmol, 2100 mg | [N+](=O)([O-])C=1C=NC=CC1N1CCC(CC1)NC(OC(C)(C)C)=O | C15H22N4O4
reactant | iodomethane | 32.57 mmol, 2.028 mL, 4.623 g | IC | CH3I
reactant | sodium hydride | 7.817 mmol, 312.7 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 346 mg | [Pd] | Pd
product | tert-butyl (1-(3-aminopyridin-4-yl)piperidin-4-yl)(methyl)carbamate | NC=1C=NC=CC1N1CCC(CC1)N(C(OC(C)(C)C)=O)C | C16H26N4O2
